US07109190B2
(7R)-7-[(Z)-2-(2-amino-5-chlorothiazol-4-yl)-2-(triphenylmethoxyimino]-acetamido]-3-[5-amino-1,3,4-thiadiazol-2-ylthio]-8-oxo-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate diphenylmethyl ester
To a solution of 5-amino-1,3,4-thiadiazole-2-thiol (0.6 g., 0.0045 mol) in dimethylformamide (25 mL) was added potassium carbonate (1.0 g, 0.0076 mol). The mixture was stirred for 1 hour at room temperature after which (7R)-7-[(Z)-2-(2-amino-5-chlorothiazol-4-yl)-2-(triphenylmethoxyimino]acetamido]-3-chloro-8-oxo-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate diphenylmethyl ester (3.2 g., 0.0039 mol) was added. Stirring was continued for 18 hours. The mixture was partitioned between ethyl acetate (50 mL) and water (50 mL). The organic layer was separated, washed with water (30 mL), dried over anhydrous MgSO4 and the solvent was removed with a rotary evaporator. The resultant thick oil was treated with diethyl ether (50 mL) and the solid which formed was filtered and dried to give 2.6 g of crude product.

reactant | 5-amino-1,3,4-thiadiazole-2-thiol | 0.0045 mol, 0.6 g | NC1=NN=C(S1)S | C2H3N3S2
reactant | potassium carbonate | 0.0076 mol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | (7R)-7-[(Z)-2-(2-amino-5-chlorothiazol-4-yl)-2-(triphenylmethoxyimino]acetamido]-3-chloro-8-oxo-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate diphenylmethyl ester | 0.0039 mol, 3.2 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N2C([C@@H](C2CCC1Cl)NC(\C(=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=1N=C(SC1Cl)N)=O)=O | C45H35Cl2N5O5S
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | (7R)-7-[(Z)-2-(2-amino-5-chlorothiazol-4-yl)-2-(triphenylmethoxyimino]-acetamido]-3-[5-amino-1,3,4-thiadiazol-2-ylthio]-8-oxo-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate diphenylmethyl ester | 2.6 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N2C([C@@H](C2CCC1SC=1SC(=NN1)N)NC(\C(=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=1N=C(SC1Cl)N)=O)=O | C47H37ClN8O5S3
